US06756378B2
A mixture of methyl 3-nitro-4-(2-methyl-2-pyrrolidinylmethoxy)benzoate (0.188 g, 0.920 mmol), 3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetic acid (0.289 g, 0.920 mmol), HOBt (0.149 g, 1.10 mmol), DMAP (11.2 mg, 0.0920 mmol) and EDC (0.211 g, 1.10 mmol) in DMF (5 mL) was stirred for 14 hr at room temp. EtOAC was added to the mixture and the solution was washed successively with 0.5 N HCl, sat. NaHCO3, and brine. The organic layer was dried over Na2SO4 and evaporated in vacuo to afford 0.489 g (q.y.) methyl 4-[[1-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetyl]-2-methyl-2-pyrrolidinyl]methoxy]-3-nitrobenzoate as a yellow crystalline material. 1H-NMR (CDCl3) δ1.26 (d, J=5.9 Hz), 1.85-4.50 (m, 10H), 2.30 (s, 3H), 3.67 (s, 2H), 3.92 (s, 3H), 6.36 (s, 2H), 6.75-7.52 (m, 7H), 8.02 (d, J=7.8 Hz, 1H), 8.15 (d, J=8.8 Hz, 1H), 8.47 (s, 1H).

reactant | methyl 3-nitro-4-(2-methyl-2-pyrrolidinylmethoxy)benzoate | 0.920 mmol, 0.188 g | [N+](=O)([O-])C=1C=C(C(=O)OC)C=CC1OCC1(NCCC1)C | C14H18N2O5
reactant | 3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetic acid | 0.920 mmol, 0.289 g | COC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C)CC(=O)O | C17H18N2O4
reactant | HOBt | 1.10 mmol, 0.149 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 1.10 mmol, 0.211 g
catalyst | DMAP | 0.0920 mmol, 11.2 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | methyl 4-[[1-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetyl]-2-methyl-2-pyrrolidinyl]methoxy]-3-nitrobenzoate | 0.489 g | COC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C)CC(=O)N1C(CCC1)(C)COC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C31H34N4O8
